US03971819
B. ethyl-4-(2-methyl-6-pyridylamino)-3-nitro-5-sulphamyl-benzoate
A mixture of ethyl-4-chloro-3-nitro-5-sulphamyl-benzoate (3.08 g) and 6-amino-2-methyl-pyridine (3.24 g) was melted on an oil bath at 140°C and kept at this temperature for 2 hours, while stirring. The still warm reaction mixture was triturated with ethanol (35 ml) and after cooling, the ethyl-4-(2-methyl-6-pyridylamino)-3-nitro-5-sulphamyl-benzoate was collected by suction and washed with ethanol. After recrystallization from acetonitrile, the compound had a melting point of 203°-204°C.

reactant | ethyl-4-chloro-3-nitro-5-sulphamyl-benzoate | 3.08 g | C(C)OC(C1=CC(=C(C(=C1)S(N)(=O)=O)Cl)[N+](=O)[O-])=O | C9H9ClN2O6S
reactant | 6-amino-2-methyl-pyridine | 3.24 g | NC1=CC=CC(=N1)C | C6H8N2
product | ethyl-4-(2-methyl-6-pyridylamino)-3-nitro-5-sulphamyl-benzoate | C(C)OC(C1=CC(=C(C(=C1)S(N)(=O)=O)NC1=CC=CC(=N1)C)[N+](=O)[O-])=O | C15H16N4O6S
